US04689330
A mixture of 2.8 parts of 2,3-dihydro-1,4-benzodioxin-2-methanol methanesulfonate (ester), 3.4 parts of 5,6,7-trimethoxy-N-(4-piperidinylmethyl)-2-benzothiazolamine, 3 parts of sodium carbonate and 67.5 parts of N,N-dimethylacetamide was stirred overnight at about 75° C. Water was added. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the (E)-2-butenedioate salt in ethanol and 2-propanone. The salt was filtered off and dried, yielding 3.2 parts (48.5%) of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-5,6,7-trimethoxy-2-benzothiazolamine (E)-2-butenedioate(2:3); mp. 171.6° C. (compound 26).

reactant | 2,3-dihydro-1,4-benzodioxin-2-methanol methanesulfonate | CS(=O)(=O)OCC1COC2=C(O1)C=CC=C2 | C10H12O5S
reactant | 5,6,7-trimethoxy-N-(4-piperidinylmethyl)-2-benzothiazolamine | COC=1C(=C(C2=C(N=C(S2)NCC2CCNCC2)C1)OC)OC | C16H23N3O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-5,6,7-trimethoxy-2-benzothiazolamine (E)-2-butenedioate | 48.5% | C(\C=C\C(=O)O)(=O)O.O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC=2SC1=C(N2)C=C(C(=C1OC)OC)OC | InChI=1S/C25H31N3O5S.C4H4O4/c1-29-21-12-18-24(23(31-3)22(21)30-2)34-25(27-18)26-13-16-8-10-28(11-9-16)14-17-15-32-19-6-4-5-7-20(19)33-17;5-3(6)1-2-4(7)8/h4-7,12,16-17H,8-11,13-15H2,1-3H3,(H,26,27);1-2H,(H,5,6)(H,7,8)/b;2-1+
